US05786518
1035 g (11 mol) of acetaldehyde dimethyl acetal [purity according to gas chromatography (GC): 96.5%] and 3.4 g (3 ml, 24 mmol, 0.22 mol %) of boron trifluoride etherate were placed under argon in a 2 l two-necked round flask fitted with a magnetic stirrer, a thermometer and a dropping funnel. 530 g (7.35 mol) of methyl (1-propenyl) ether were added dropwise to the mixture within 2 hours at between 30° and 40° C. with occasional cooling (the reaction was exothermic). After completion of the addition the mixture was stirred for a further 30 minutes at 30° C., then cooled to room temperature. 3 ml of triethylamine were added thereto, the mixture was stirred for 15 minutes and suction filtered. The excess acetaldehyde dimethyl acetal was then distilled off on a Raschig column (50×3 cm) at normal pressure and the residue was fractionated on the same column. This gave at a pressure of 50 mbar a 1st fraction (b.p. 81.5°-83.5° C.) consisting of 742 g (60% yield) of 1,1,3-trimethoxy-2-methyl-butane (content according to GC: 96.4%) as a colourless liquid and a 2nd fraction (b.p. 83.5°-85° C.) consisting of 87.5 g (6.3% yield) of 1,1,3-trimethoxy-2-butane (content according to GC: 86%), likewise as a colourless liquid, i.e. a total yield of 66.3% of the desired product.

reactant | acetaldehyde dimethyl acetal | 11 mol, 1035 g | COC(C)OC | C4H10O2
reactant | methyl (1-propenyl) ether | 7.35 mol, 530 g | C(=CC)OC | C4H8O
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
catalyst | boron trifluoride etherate | 24 mmol, 3 ml, 3.4 g | B(F)(F)F.CCOCC
product | 1,1,3-trimethoxy-2-methyl-butane | 742 g, 60% yield | COC(C(C(C)OC)C)OC | C8H18O3
